US06465509B2
Step 1: 6,6,6-Trifluoro-3,5-dioxo-hexanoic acid tert-butyl ester
To a suspension of 60% NaH (2.2 g, 55 mmol; washed with hexanes) in THF (250 mL) at 0° C. was added dropwise tert-butyl acetoacetate (8.0 g, 50.6 mmol) over a period of 15 min. The mixture was stirred for 15 min. and a homogenous solution solution resulted. A solution of 2.5M n-BuLi in hexanes (20.5 mL, 51 mmol) was added dropwise. After stirring for 15 min., 2,2,2-trifluoroethyl trifluoroacetate (11 g, 56 mmol) was added and the mixture was stirred for 30 min., quenched with HOAc, diluted with H2O and extracted with EtOAc. The EtOAc extract was washed with H2O, dried (anhydrous MgSO4) and concentrated. Chromatography over silica gel and elution with hexanes:EtOAc (10:1), then hexanes:EtOAc (4:1) provided 5 g of title compound as a red-brown oil.

reactant | NaH | 55 mmol, 2.2 g | [H-].[Na+]
reactant | tert-butyl acetoacetate | 50.6 mmol, 8.0 g | C(CC(=O)C)(=O)OC(C)(C)C | C8H14O3
reactant | n-BuLi | 2.5M | [Li]CCCC
reactant | 2,2,2-trifluoroethyl trifluoroacetate | 56 mmol, 11 g | FC(C(=O)OCC(F)(F)F)(F)F | C4H2F6O2
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | 6,6,6-Trifluoro-3,5-dioxo-hexanoic acid tert-butyl ester | 5 g | C(C)(C)(C)OC(CC(CC(C(F)(F)F)=O)=O)=O | C10H13F3O4
